US04133672
4-(2-Amino-4-tert.-butylphenyl)morpholine
4-(4-tert-Butyl-2-nitrophenyl)morpholine (15 g.; 57 mmoles) was dissolved in a mixture of 150 ml. of monoglyme and 150 ml. of methanol. The mixture was then hydrogenated in the presence of 1.4 g. of Pd on carbon catalyst (10%) with an initial pressure of 39 p.s.i. hydrogen. After 3 hours, the resultant mixture was filtered to remove the catalyst and the filtrate evaporated to dryness to give the product (13 g.; 97.8% yield) as tan crystals, m.p. 165° - 166° C.

reactant | 4-(4-tert-Butyl-2-nitrophenyl)morpholine | 57 mmoles, 15 g | C(C)(C)(C)C1=CC(=C(C=C1)N1CCOCC1)[N+](=O)[O-] | C14H20N2O3
reactant | monoglyme | C(OC)COC | C4H10O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 4-(2-Amino-4-tert.-butylphenyl)morpholine | NC1=C(C=CC(=C1)C(C)(C)C)N1CCOCC1 | C14H22N2O
